US06518257B1
(iv) Production of 4′-fluoro-5-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-2-yl acetate
To a solution of 4′-fluoro-5-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-2-ol (390 mg) in pyridine (4 ml) was added dropwise acetic anhydride (0.135 ml) at room temperature, and the mixture was stirred for 4 h. Acetic anhydride (22.5 μl) was further added and the mixture was stirred for 15 h. The reaction mixture was subjected to azeotropic reaction with toluene for concentration, diluted with ethyl acetate, washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and to a solution of the residue (414 mg) in pyridine (4 ml) was added dropwise acetic anhydride (0.209 ml) at room temperature. The mixture was stirred for 15 h and the reaction mixture was subjected to azeotropic reaction with toluene for concentration. To a solution of the residue in methanol (15 ml) was added 0.1N aqueous p-toluenesulfonic acid solution (7.5 ml) at room temperature, and the mixture was stirred for 1 h. The reaction mixture was concentrated, diluted with ethyl acetate, neutralized with saturated aqueous sodium hydrogen carbonate, extracted with ethyl acetate, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by column chomatography (eluent; ethyl acetate→ethyl acetate:methanol=20:1) to give the colorless amorphous title compound (337 mg).

reactant | 4′-fluoro-5-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-2-ol | 390 mg | FC1=CC=C(C=C1)C=1C(=CC=C(C1)C(C(C)C)(C=1N=CNC1)O)O | C19H19FN2O2
reactant | acetic anhydride | 0.135 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Acetic anhydride | 22.5 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | 0.1N, 7.5 ml | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 15 ml | CO | CH4O
product | 4′-fluoro-5-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-2-yl acetate | 337 mg | C(C)(=O)OC1=C(C=C(C=C1)C(C(C)C)(C=1N=CNC1)O)C1=CC=C(C=C1)F | C21H21FN2O3
